US06355636B1
4-Chloro-6-(3-morpholin-4-yl-propoxy)-[1.5]naphthyridine-3-carbonitrile
To a suspension of 4-hydroxy-6-(3-morpholin-4-yl-propoxy)-[1.5]naphthyridine-3-carbonitrile in anhydrous CH2Cl2 (150 ml) was added oxalyl chloride (2.7 ml, 31.8 mmol) and DMF (0.1 ml, 20%) at room temperature under nitrogen. The suspension became a clear dark brown solution. The resulting mixture was stirred for an additional 1 hr. The solvent was removed by rotary evaporation. The residue was dissolved in ice-water mixture, made basic with (NH4OH), and extracted with CH2Cl2. The extracts were washed (brine), dried (Na2SO4), and concentrated to give the title compound (400 mg, 38%). H-NMR δ(DMSO-d6): 1.88 (2H, m), 2.26-2.29 (6H, m), 2.51 (2H, m), 3.49 (2H,m), 4.34 (2H, m), 6.834 (1H, d, C7-H), 8.147 (1H, d, C8-H), 8.711 (1H, s, C2-H).

reactant | 4-hydroxy-6-(3-morpholin-4-yl-propoxy)-[1.5]naphthyridine-3-carbonitrile | OC1=C(C=NC2=CC=C(N=C12)OCCCN1CCOCC1)C#N | C16H18N4O3
reactant | oxalyl chloride | 31.8 mmol, 2.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-6-(3-morpholin-4-yl-propoxy)-[1.5]naphthyridine-3-carbonitrile | 400 mg, 38% | ClC1=C(C=NC2=CC=C(N=C12)OCCCN1CCOCC1)C#N | C16H17ClN4O2
